US20010027196A1
2-Amino-4-(5-methyl-furan-2-yl)-6-(2-phenylamino-ethylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile and phenylethylenediamine in DME. ES-MS m/e (%): 335 (M+H+, 100), 242 ([M+H-PhNH2]+, 30).

reactant | 2-amino-4-methanesulfinyl-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1OC(=CC1)C | C11H10N4O2S
reactant | phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(5-methyl-furan-2-yl)-6-(2-phenylamino-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)C)C#N)NCCNC1=CC=CC=C1 | C18H18N6O
